US05130323
A solution of (2S,4R)-4-benzyloxycarbonylamino-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(phenylmethyl)pyrrolidine (700 mg) and 30% hydrogen bromide in acetic acid (2 ml) was stirred at room temperature for 2 hours and the solvent was evaporated in vacuo to give (2S,4R)-4-amino-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1(phenylmethyl)pyrrolidine hydrobromide 800 mg) as an oil.

reactant | (2S,4R)-4-benzyloxycarbonylamino-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1-(phenylmethyl)pyrrolidine | 700 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C[C@H](N(C1)CC1=CC=CC=C1)\C=C/CCCC(=O)OC | C26H32N2O4
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | (2S,4R)-4-amino-2-[(Z)-5-methoxycarbonyl-1-pentenyl]-1(phenylmethyl)pyrrolidine hydrobromide | 800 mg | Br.N[C@@H]1C[C@H](N(C1)CC1=CC=CC=C1)\C=C/CCCC(=O)OC | InChI=1S/C18H26N2O2.BrH/c1-22-18(21)11-7-3-6-10-17-12-16(19)14-20(17)13-15-8-4-2-5-9-15;/h2,4-6,8-10,16-17H,3,7,11-14,19H2,1H3;1H/b10-6-;/t16-,17-;/m1./s1
